US08039458B2
N-(4-Fluoro-2-(4-methyl-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)benzyl)-3′-hydroxy-4′-oxo-2,3,4′,5,6,6′,7′,9′-octahydrospiro[pyran-4,10′-pyrimido[1,2-d][1,4]oxazepine]-2′-carboxamide:
To a solution of 3′-(benzyloxy)-N-(4-fluoro-2-(4-methyl-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)benzyl)-4′-oxo-2,3,4′,5,6,6′,7′,9′-octahydrospiro[pyran-4,10′-pyrimido[1,2-d][1,4]oxazepine]-2′-carboxamide (0.093 g, 0.174 mmol) in ethyl acetate (5 mL) was added palladium on activated carbon (10%) (0.050 g) and the resulting mixture allowed to react under one atmosphere of hydrogen for 6 hours. The catalyst was removed by filtration and the filtrate was evaporated under reduce pressure to give a white solid. Recrystallization from hot ethanol afforded the title compound as a white solid (0.053 g, 68% yield): 1H NMR (400 MHz, CDCl3) δ 12.28 (1H, s), 8.95 (1H, brt), 7.66 (1H, dd, J=8.6, 6.1 Hz), 7.63 (1H, s), 7.22 (2H, dd, J=9.2, 2.8 Hz), 7.12 (2H, td, J=8.2, 2.8 Hz), 4.53 (2H, brs), 3.7-3.90 (10H, m), 3.43 (3H, s), 2.2-2.5 (2H, brm), 1.5-2.0 (2H, brm); LCMS (+ESI, M+H+) m/z 501.

reactant | 3′-(benzyloxy)-N-(4-fluoro-2-(4-methyl-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)benzyl)-4′-oxo-2,3,4′,5,6,6′,7′,9′-octahydrospiro[pyran-4,10′-pyrimido[1,2-d][1,4]oxazepine]-2′-carboxamide | 0.174 mmol, 0.093 g | C(C1=CC=CC=C1)OC1=C(N=C2N(CCOCC23CCOCC3)C1=O)C(=O)NCC1=C(C=C(C=C1)F)N1N=CN(C1=O)C | C30H31FN6O6
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on activated carbon | 0.050 g | [Pd] | Pd
product | N-(4-Fluoro-2-(4-methyl-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)benzyl)-3′-hydroxy-4′-oxo-2,3,4′,5,6,6′,7′,9′-octahydrospiro[pyran-4,10′-pyrimido[1,2-d][1,4]oxazepine]-2′-carboxamide | 0.053 g, 68% yield | FC1=CC(=C(CNC(=O)C=2N=C3N(CCOCC34CCOCC4)C(C2O)=O)C=C1)N1N=CN(C1=O)C | C23H25FN6O6
